US09120823B2
A mixture of 2-chloro-5-iodopyridine (20.0 g), sodium pentafluoropropionate (77.8 g), copper (I) iodide (31.8 g), xylene (84 ml) and N-methylpyrrolidone (84 ml) was heated to 160° C., and stirred while heating under reflux 6 hours. The reaction mixture was cooled to room temperature, and water was poured thereto. Then, the mixture was extracted with methyl-tert-butyl ether. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure to give 2-chloro-5-pentafluoroethyl pyridine.

reactant | 2-chloro-5-iodopyridine | 20.0 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | sodium pentafluoropropionate | 77.8 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | xylene | 84 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | N-methylpyrrolidone | 84 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) iodide | 31.8 g | [Cu]I
solvent | water | O | H2O
product | 2-chloro-5-pentafluoroethyl pyridine | ClC1=NC=C(C=C1)C(C(F)(F)F)(F)F | C7H3ClF5N
